* source BJT
Q_Q2         N13499 N07515 N09807 Q2N2222
R_R4         0 N07515  20k TC=0,0 
V_V6         N08784 0  AC 0
+SIN 0 20m 1k 0 0 0
C_C2         N08784 N07515  0.33u  TC=0,0 
R_R5         N092361 N09807  0.50 TC=0,0 
R_R6         N07515 N09554  180k TC=0,0 
R_R7         0 N09807  2k TC=0,0 
C_C3         0 N092361  20u  TC=0,0 
R_R8         N13499 N09554  20k TC=0,0 
V_V4         N09554 0 20
