* source BJT
R_R1         N06215 N00046  1k TC=0,0 
V_V1         N00073 0 10
R_R2         N00064 N00073  100 TC=0,0 
V_V2         N06215 0 5
Q_Q1         N00064 N00046 0 Q2N2222
