* source DIODE1
V_V1         N01573 0 {Vsource}
V_V2         N02581 0 {Vsource}
D_D1         N01573 0 DBREAK_DIODE 
D_D2         0 N02581 DBREAK_DIODE 
.PARAM  vsource=3
