* source DIODE2
R_R1         N02779 N02625  1k TC=0,0 
R_R2         0 N02625  {rvariable} TC=0,0 
V_V1         N02775 0 10Vdc
V_V3         N02779 N02775  
+PULSE 0 5 0 1n 1n 50u 100u
D_D1         0 N02625 DbreakZ 
.PARAM  rvariable=10k
