* source OPAMPADV1
V_V2         N10459 0 10
R_R4         N10513 N10649  10k TC=0,0 
R_R5         N10715 0  10k TC=0,0 
V_V3         0 N10549 10
C_C1         0 N10793  10uF IC=0 TC=0,0 
X_U1         N10649 N10611 N10459 N10549 N10377 uA741
V_V4         N10513 0  
+PULSE 0 5 0 1n 1n 25ms 100ms
R_R3         N10793 N10611  10k TC=0,0 
D_D1         N10377 N10715 D1N914/27C 
D_D2         0 N10377 D1N914/27C 
