* source OPAMPADV1
X_U1         0 N9002620 N9005739 N9002724 N9002664 uA741
V_V2         N9005739 0 15
R_R1         N9002620 N9002664  10k TC=0,0 
V_V3         0 N9002724 15
C_C1         N9008569 N90030251  1u  TC=0,0 
V_V4         N9008569 0  
+PULSE 0 8 0 50m 50m 0 100m
R_R2         N90030251 N9002620  100 TC=0,0 
