* source OPAMPADV1
V_V3         0 N00313 15Vdc
C_C1         N00095 N00151  20u IC=0 TC=0,0 
V_V2         N00357 0 15Vdc
R_R1         N00109 N00095  10k TC=0,0 
X_U1         0 N00095 N00357 N00313 N00151 uA741
V_V4         N00109 0  
+PULSE -5V 5V 0 1n 1n 50ms 100ms
