* source OPAMPADV1
V_V3         N01566 0 15Vdc
R_R3         0 N00155  1k TC=0,0 
X_U1         0 N00137 N01566 N00271 N00155 uA741
V_V1         N00311 0 5Vdc
V_V2         0 N00271 15Vdc
R_R1         N00311 N00137  2k TC=0,0 
R_R2         N00137 N00155  1k TC=0,0 
