* source OPAMPADV1
X_U1         N05007 N03926 N05746 N04249 N03896 uA741
V_V1         N05007 0 5Vdc
V_V2         0 N04249 12Vdc
R_R1         0 N03926  100k TC=0,0 
V_V3         N05746 0 12Vdc
D_D1         N03896 N03926 10BQ040 
