* source OPAMPADV2
V_V2         0 N01135 5Vdc
R_R1         N00197 N02460  1k TC=0,0 
V_V3         N01005 0 5Vdc
X_U1         N02460 0 N01005 N01135 N02484 uA741
V_V1         N00197 0  AC 0
+SIN 0 5V 50 0 0 0
R_R4         0 N02484  1k TC=0,0 
R_R2         N02460 N02484  2k TC=0,0 
