* source OPAMPADV2
R_R1         N00235 N00316  100 TC=0,0 
R_R2         N00316 N00418  100 TC=0,0 
R_R3         0 N00441  50 TC=0,0 
C_C1         N00418 N00441  0.2u IC=0 TC=0,0 
C_C2         N00441 N00235  0.2u IC=0 TC=0,0 
C_C3         0 N00316  0.4u IC=0 TC=0,0 
X_U1         0 N00418 N05029 N05033 N00235 uA741
V_V1         0 N05033 15
V_V2         N05029 0 15
