* source OPAMPADV2
R_R2         0 N02678  12k TC=0,0 
R_R3         N02746 N03279  3.3k TC=0,0 
V_V1         0 N02616 15Vdc
C_C2         N02693 N03279  0.05u IC=0 TC=0,0 
V_V2         N02645 0 15Vdc
R_R1         N02678 N02693  24k TC=0,0 
R_R4         0 N02746  3.3k TC=0,0 
X_U1         N02746 N02678 N02645 N02616 N02693 uA741
C_C1         0 N02746  0.05u IC=0 TC=0,0 
