* source OPAMPBASIC
R_R2         0 N00139  200k TC=0,0 
V_V3         0 N08535 20vdc
R_R3         N00180 N00619  100k TC=0,0 
V_V4         N08313 0 20vdc
R_R1         N00146 N00139  50k TC=0,0 
X_U1         N00139 N00180 N08313 N08535 N00168 uA741
R_R4         N00180 N00168  500k TC=0,0 
V_V5         N00146 0  AC 0
+SIN 0 5V 100hz 0 0 0
V_V6         N00619 0  AC 0
+SIN 0 1V 100hz 0 0 0
