* source OPAMPBASIC
R_R1         N03989 N02797  100k TC=0,0 
R_R2         N02797 N00324  500k TC=0,0 
V_V2         0 N02076 12V
V_V3         N02070 0 12V
X_U1         0 N02797 N02070 N02076 N00324 uA741
V_V4         N03989 0  AC 0
+SIN 0 1V 100hz 0 0 0
