* source OPAMPBASIC
V_V3         0 N01885 12Vdc
R_R1         0 N00171  200k TC=0,0 
R_R2         N00259 N00171  500k TC=0,0 
X_U1         N01821 N00171 N00271 N01885 N00259 uA741
V_V2         N00271 0 12Vdc
V_V4         N01821 0  AC 0
+SIN 0 1V 100hz 0 0 0
