* source OPAMPBASIC
X_U1         N00373 N01302 N00716 N00660 N01302 LM741
V_V1         N00373 0 5Vdc
V_V2         0 N00660 12Vdc
V_V3         N00716 0 12Vdc
