* source THEOREMS1
R_R2         A 0  2ohm TC=0,0 
R_R3         A 0  4ohm TC=0,0 
R_R4         A 0  8ohm TC=0,0 
V_V2         N02352 0 5Vdc
R_R1         N02352 A  2ohm TC=0,0 
