* source THEOREMS2
I_I2         0 N00140 DC 2Adc  
R_Rn         0 N03242  4ohm TC=0,0 
R_R4         0 N00153  4ohm TC=0,0 
I_I4         0 N02855 DC 2Adc  
I_I3         0 N02859 DC 3Adc  
I_I1         0 N00153 DC 3Adc  
V_V3         N02869 N02855 10Vdc
R_R10         0 N02859  8ohm TC=0,0 
R_R5         N01797 N01801  5ohm TC=0,0 
R_R2         0 N00140  3ohm TC=0,0 
R_R6         0 N01797  3ohm TC=0,0 
R_R11         0 N03242  4ohm TC=0,0 
R_R8         N02869 N02859  5ohm TC=0,0 
R_R9         0 N02855  3ohm TC=0,0 
R_R3         0 N00153  8ohm TC=0,0 
R_R7         0 N01801  8ohm TC=0,0 
V_V2         N01801 0 8Vdc
V_V1         N00149 N00140 10Vdc
R_R1         N00149 N00153  5ohm TC=0,0 
I_In         0 N03242 DC 5Adc  
R_R12         0 N02859  0.001u TC=0,0 
