* source THREEPHASECIRCUITS
V_V6         B 0  AC 0
+SIN 0 5V 50 0 0 -120
R_RB         C B  10 TC=0,0 
V_V4         A 0  AC 0
+SIN 0 5V 50 0 0 0
V_V5         C 0  AC 0
+SIN 0 5V 50 0 0 -240
R_RA         B A  10 TC=0,0 
R_RC         A C  10 TC=0,0 
