* source AC_DC_VRM
R_R28         OUT 0  {RLOAD} TC=0,0 
X_U3         VDC N10883112 N10909862 0 TRAN1 
L_L1         N10823565 OUT  60u  
C_C13         N109442461 N10824463  2n  
R_R30         N10823789 VFB  470 TC=0,0 
R_R36         N10824463 0  0.01 TC=0,0 
C_C11         VDC 0  470u  TC=0,0 
C_C5         OUT 0  22u  TC=0,0 
R_R53         0 N10823789  5K TC=0,0 
V_V6         N10871733 N10871817  AC 0
+SIN 0 154V 50Hz 0 0 60
R_R29         VFB OUT  100k TC=0,0 
R_R52         N109442461 N10883112  20  
R_R32         N10890530 N10878265  33 TC=0,0 
D_D17         0 N10871733 Dbreak 
D_D18         0 N10871817 Dbreak 
D_D19         N10871817 VDC Dbreak 
D_D20         N10871733 VDC Dbreak 
D_D21         N10909862 N10823565 Dbreak 
D_D22         0 N10823565 Dbreak 
M_M1         N10883112 N10890530 N10824463 N10824463 power_Mbreakn           
V_V7         N10878265 N10824463  
+PULSE 0 15 0 10n 10n 2.6u 6.67u
.PARAM  rload=8 feedback=23n
