* source SSFWDCNV
R_R36         N10824463 0  0.01 TC=0,0 
L_L1         N10823565 OUT  60u  
R_R30         N10823789 VFB  470 TC=0,0 
R_R29         VFB OUT  100k TC=0,0 
R_R28         OUT 0  {RLOAD} TC=0,0 
C_C2         0 N10823433  2.2n IC=0.0 TC=0,0 
R_R3         N10823433 N10833624  5.1K TC=0,0 
X_U2         N10846839 0 N10824463 N10878265 N10823433 N10872580 N10832905
+  N10833624 UC3843
C_C5         N10823997 0  22u  TC=0,0 
R_R32         N10890530 N10878265  33 TC=0,0 
R_R48         N10823997 OUT  1m TC=0,0 
R_R45         N10832905 VFB  1k TC=0,0 
R_R44         N10865580 N10832905  9K TC=0,0 
C_C9         N10846839 N10832905  245p  TC=0,0 
C_C10         N10846839 N10865580  15n  TC=0,0 
V_V6         N10871733 N10871817  AC 0
+SIN 0 154V 50Hz 0 0 60
C_C11         N10871839 0  470u  TC=0,0 
R_R49         N10872580 VDC  40K TC=0,0 
R_R50         0 N10872580  3K TC=0,0 
C_C12         N10872580 0  22u  TC=0,0 
R_R52         N108830621 N10883112  20  
C_C13         N108830621 N10824463  2n  
R_R51         N10871839 VDC  0.025 TC=0,0 
D_D15         N10871733 VDC UT4060 
D_D14         N10871817 VDC UT4060 
D_D13         0 N10871817 UT4060 
D_D16         0 N10871733 UT4060 
M_M1         N10883112 N10890530 N10824463 N10824463 IRF342
D_D1         N10909862 N10823565 MUR430 
D_D2         0 N10823565 MUR430 
X_U3         VDC N10883112 N10909862 0 TRAN1 
C_C14         N10824463 0  2n  
R_R53         0 N10823789  5K TC=0,0 
.PARAM  rload=8 feedback=23n
